US08133909B2
((S)-{(3,4-Dimethyl-phenyl)-[2-(5-methyl-pyridin-2-yl)-ethyl]-carbamoyl}-phenyl-methyl)-carbamic acid tert-butyl ester
To a 0° C. solution of 35 mg (0.15 mmol) (3,4-dimethyl-phenyl)-[2-(5-methyl-pyridin-2-yl)-ethyl]-amine and 40.4 mg (0.16 mmol) Boc-L-alpha-phenylglycine in 540 uL dichloromethane under argon, was added 31.4 mg (0.16 mmol) 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride. The mixture was stirred at 0° C. for 3 hours then at ambient temperature overnight. The solution was washed once with a sat. NaHCO3 solution (3 mL) and once with water (3 mL). The combined extracts were dried over Na2SO4, filtered and concentrated in vacuo. The crude oil was purified with flash column chromatography on silica eluting with a gradient formed from heptane and ethylacetate to provide 0.052 g (75%) of the title compound as an oil. MS (m/e): 474.3 [M+H]+.

reactant | (3,4-dimethyl-phenyl)-[2-(5-methyl-pyridin-2-yl)-ethyl]-amine | 0.15 mmol, 35 mg | CC=1C=C(C=CC1C)NCCC1=NC=C(C=C1)C | C16H20N2
reactant | Boc-L-alpha-phenylglycine | 0.16 mmol, 40.4 mg | CC(C)(C)OC(=O)N[C@@H](C1=CC=CC=C1)C(=O)O | C13H17NO4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.16 mmol, 31.4 mg | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 540 uL | ClCCl | CH2Cl2
product | ((S)-{(3,4-Dimethyl-phenyl)-[2-(5-methyl-pyridin-2-yl)-ethyl]-carbamoyl}-phenyl-methyl)-carbamic acid tert-butyl ester | 0.052 g, 75% | C(C)(C)(C)OC(N[C@@H](C1=CC=CC=C1)C(N(CCC1=NC=C(C=C1)C)C1=CC(=C(C=C1)C)C)=O)=O | C29H35N3O3
